US07378420B2
Synthesis of 4-(1-Methyl-piperidin-4-ylmethyl)-piperazin-1-carboxylic acid benzhydryl-amide
To a solution of 1-(1-methyl-piperidin-4ylmethyl)-piperazine (0.5 g, 2.7 mmol) in dry CH2Cl2 (12 ml) was added diphenylmethyl isocyanate (0.56 ml, 2.7 mmol) drop wise under nitrogen. The resulting mixture was stirred at room temperature over night. Removal of solvent under reduced pressure followed by column chromatography using CH2Cl2:CH3OH (10:1) gives the desired product in 82% yield.

reactant | 1-(1-methyl-piperidin-4ylmethyl)-piperazine | 2.7 mmol, 0.5 g | CN1CCC(CC1)CN1CCNCC1 | C11H23N3
reactant | diphenylmethyl isocyanate | 2.7 mmol, 0.56 ml | C1(=CC=CC=C1)C(C1=CC=CC=C1)N=C=O | C14H11NO
solvent | CH2Cl2 | 12 ml | C(Cl)Cl | CH2Cl2
product | 4-(1-Methyl-piperidin-4-ylmethyl)-piperazin-1-carboxylic acid benzhydryl-amide | 82% yield | C(C1=CC=CC=C1)(C1=CC=CC=C1)NC(=O)N1CCN(CC1)CC1CCN(CC1)C | C25H34N4O
